US08293768B2
Synthesis of 2-(3-benzyl-2-oxoimidazolidin-1-yl)-N-(3-fluorobenzyl)-4-methylthiazole-5-carboxamide
Following the procedure as describe in Example 8, making variations as required to replace benzylamine with 3-fluorobenzylamine to react with 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid, the title compound was obtained as a white powder in 14% yield: mp 169-171° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.51 (t, J=5.7 Hz, 1H), 7.50-7.00 (m, 9H), 4.54-4.34 (m, 4H), 3.97 (t, J=7.5 Hz, 2H), 3.42 (t, J=7.5 Hz, 2H), 2.44 (s, 3H); 13C NMR (75 MHz, DMSO-d6) δ 164.2, 162.3, 161.0, 157.8, 155.5, 151.6, 143.1, 130.6, 129.1, 128.2, 127.9, 123.6, 118.0, 114.4, 114.1, 47.3, 42.6, 42.4, 42.0, 17.5; MS (ES+) m/z 425.3 (M+1).

reactant | benzylamine | C(C1=CC=CC=C1)N | C7H9N
reactant | 3-fluorobenzylamine | FC=1C=C(CN)C=CC1 | C7H8FN
reactant | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-4-methylthiazole-5-carboxylic acid | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)O)=O | C15H15N3O3S
product | 2-(3-benzyl-2-oxoimidazolidin-1-yl)-N-(3-fluorobenzyl)-4-methylthiazole-5-carboxamide | 14% yield | C(C1=CC=CC=C1)N1C(N(CC1)C=1SC(=C(N1)C)C(=O)NCC1=CC(=CC=C1)F)=O | C22H21FN4O2S
